US09108936B2
To a solution of N-[(4-fluorophenyl)-methyl]-2-methoxy-6-methyl-4-morpholin-4-yl-benzamide (2.50 g, 6.98 mmol) in dichloromethane (70 ml) is added neat boron tribromide (0.99 ml, 10.3 mmol) at −78° C. The temperature is slowly raised to RT over a period of 30 min and stirred for 1 h at RT. The reaction mixture is poured onto cold water and extracted with dichloromethane (3×50 ml). The combined organic layers are washed with brine (30 ml), dried over sodium sulfate and evaporated to dryness. The crude material is purified by column chromatography (silica gel, 25% ethyl acetate/hexane) affording N-[(4-fluorophenyl)-methyl]-2-hydroxy-6-methyl-4-morpholin-4-yl-benzamide (0.90 g, 2.58 mmol, 37%).

reactant | N-[(4-fluorophenyl)-methyl]-2-methoxy-6-methyl-4-morpholin-4-yl-benzamide | 6.98 mmol, 2.50 g | FC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C)N1CCOCC1)OC)=O | C20H23FN2O3
reactant | boron tribromide | 10.3 mmol, 0.99 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | N-[(4-fluorophenyl)-methyl]-2-hydroxy-6-methyl-4-morpholin-4-yl-benzamide | 2.58 mmol, 0.90 g, 37% | FC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C)N1CCOCC1)O)=O | C19H21FN2O3
